US08017611B2
4-bromo-1H-pyrazole-3-carboxamide (673 mg), potassium carbonate (636 mg) and tert-butyl 4-methylsulfonyloxypiperidine-1-carboxylate (1187 mg) in acetonitrile (20 ml) were stirred at 90° C. overnight. The mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, brine, dried over magnesium sulfate and concentrated. The crude product was purified by flash chromatography on silica gel eluting with 55 to 100% ethyl acetate in petroleum ether. The solvent was evaporated to dryness to afford tert-butyl 4-(4-bromo-3-carbamoyl-pyrazol-1-yl)piperidine-1-carboxylate (489 mg) as a solid. NMR Spectrum: (DMSOd6): 1.41 (s, 9H), 1.78 (dd, 1H), 1.83 (dd, 1H), 1.96-2.04 (m, 2H), 2.90 (bs, 2H), 4.03 (m, 2H), 4.33-4.41 (m, 1H), 7.30 (s, 1H), 7.44 (s, 1H), 8.14 (s, 1H)

reactant | 4-bromo-1H-pyrazole-3-carboxamide | 673 mg | BrC=1C(=NNC1)C(=O)N | C4H4BrN3O
reactant | potassium carbonate | 636 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 4-methylsulfonyloxypiperidine-1-carboxylate | 1187 mg | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | tert-butyl 4-(4-bromo-3-carbamoyl-pyrazol-1-yl)piperidine-1-carboxylate | 489 mg | BrC=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C(N)=O | C14H21BrN4O3
